US06441184B1
A solution of 3-cyclopentyl-2-(4-methanesulfonyl-3-nitrophenyl)-propionic acid (50 mg, 0.15 mmol), triethylamine (0.060 mL, 0.44 mmol), benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (98 mg, 0.22 mmol), and 2-aminobenzothiazole (33 mg, 0.22 mmol) in N,N-dimethylformamide (3 mL) was stirred at 25° C. for 3 h. The reaction mixture was then diluted with water (25 mL), a 1N aqueous hydrochloric acid solution (5 mL), and ethyl acetate (25 mL). The layers were separated. The resulting organic layer was washed with a saturated aqueous sodium chloride solution (1×25 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 2/1 hexanes/ethyl acetate) afforded N-benzothiazol-2-yl-3-cyclopentyl-2-(4-methanesulfonyl-3-nitro-phenyl)-propionamide (31 mg, 45%) as a pale yellow foam: mp 108-113° C. (foam to gel); EI-HRMS m/e calcd for C22H23N3O5S2 (M+) 473.1079, found 473.1077.

reactant | 3-cyclopentyl-2-(4-methanesulfonyl-3-nitrophenyl)-propionic acid | 0.15 mmol, 50 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C15H19NO6S
reactant | triethylamine | 0.44 mmol, 0.060 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 0.22 mmol, 98 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-aminobenzothiazole | 0.22 mmol, 33 mg | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | N-benzothiazol-2-yl-3-cyclopentyl-2-(4-methanesulfonyl-3-nitro-phenyl)-propionamide | 31 mg, 45% | S1C(=NC2=C1C=CC=C2)NC(C(CC2CCCC2)C2=CC(=C(C=C2)S(=O)(=O)C)[N+](=O)[O-])=O | C22H23N3O5S2
